US05578636
Synthesis of 5-(1-hydroxypropyl)-2,2'-bithiophene
5-Formyl-2,2'-bithiophene (3 g) was dissolved in THF (50 ml) and ethyl-magnesium bromide Grignard reagent (9.3 ml) was added dropwisely under nitrogen gas atmosphere in ice bath and stirred for 1 hour. The mixture was stirred for 1 hr. and then continuously stirred at room temperature. The reaction was monitored by thin layer chromatography. After the reaction was completed, water (30 ml) and ethyl acetate (200 ml) were added to the mixture and extracted and purified by column chromatography, eluted with ethyl acetate/n-hexane (1/9). Light yellowish product was thus obtained.

reactant | 5-Formyl-2,2'-bithiophene | 3 g | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
reactant | water | 30 ml | O | H2O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-(1-hydroxypropyl)-2,2'-bithiophene | OC(CC)C1=CC=C(S1)C=1SC=CC1 | C11H12OS2
